US06455528B1
(9) Synthesis of N-(4-(1-Amino-1-methylethyl)phenylmethyl)acetamide
To a solution of N-(4-(1-benzyloxycarbonylamino-1-methylethyl)phenylmethyl)acetamide (9.57 g) in methanol (200 ml) and chloroform (200 ml) was added 10% palladium-carbon (5.0 g) and the mixture was stirred for 5 hr while introducing a hydrogen gas. The reaction mixture was passed through Celite and the solvent was evaporated to give the title compound (5.8 g) as a pale-yellow amorphous solid.

reactant | N-(4-(1-benzyloxycarbonylamino-1-methylethyl)phenylmethyl)acetamide | 9.57 g | C(C1=CC=CC=C1)OC(=O)NC(C)(C)C1=CC=C(C=C1)CNC(C)=O | C20H24N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium-carbon | 5.0 g | [C].[Pd]
product | N-(4-(1-Amino-1-methylethyl)phenylmethyl)acetamide | 5.8 g | NC(C)(C)C1=CC=C(C=C1)CNC(C)=O | C12H18N2O
